US06787536B2
4-[4-(4-Pyridin-3-yl-phenyl)piperazine-1-sulfonylmethyl]-tetrahydropyran-4-carboxylic acid
4-[4-(4-Pyridin-3-yl-phenyl)piperazine-1-sulfonylmethyl]tetrahydropyran-4-carboxylic acid methyl ester (0.19 g) and lithium hydroxide monohydrate (0.087 g) were combined in tetrahydrofuran (10 ml), methanol (5 ml) and water (5 ml) and heated to reflux for 2 h. The solvents were then removed in vacuo and the residue diluted with 1 M sodium hydroxide (50 ml) and washed with ethyl acetate (3×20 ml). The aqueous phase was then acidified pH 5 and the suspension formed extracted with 10% methanol/dichloromethane (5×40 ml). The combined extracts were then washed with water (2×20 ml), saturated brine (20 ml), dried (Na2SO4) and reduced in vacuo to provide the title compound as a white solid (0.13 g, 72%).

reactant | 4-[4-(4-Pyridin-3-yl-phenyl)piperazine-1-sulfonylmethyl]tetrahydropyran-4-carboxylic acid methyl ester | 0.19 g | COC(=O)C1(CCOCC1)CS(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)C=1C=NC=CC1 | C23H29N3O5S
reactant | lithium hydroxide monohydrate | 0.087 g | O.[OH-].[Li+]
reactant | methanol | 5 ml | CO | CH4O
reactant | water | 5 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-[4-(4-Pyridin-3-yl-phenyl)piperazine-1-sulfonylmethyl]-tetrahydropyran-4-carboxylic acid | 0.13 g, 72% | N1=CC(=CC=C1)C1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)CC1(CCOCC1)C(=O)O | C22H27N3O5S
